US08198453B2
To a solution of 2-bromo-4-chloro-1-methylbenzene (53 g, 0.26 mol) in anhydrous THF (600 mL) at −78° C. under nitrogen was added dropwise a solution of 2.5 M n-BuLi in hexane (103 mL, 0.26 mol). After stirring for 1 hr at −78° C., a solution of the (R)-tert-butyl 3-(methoxy(methyl)carbamoyl)piperidine-1-carboxylate (67 g, 0.246 mol) in anhydrous THF (300 mL) was added dropwise. After addition, the reaction mixture was allowed to warm to rt and stirred for 2 hr. The mixture was quenched with saturated NH4Cl solution (500 mL) and extracted with EtOAc (3×400 mL). The combined organic layers were washed with brine, dried over Na2SO4 and concentrated in vacuo to give crude (R)-tert-butyl 3-(5-chloro-2-methylbenzoyl)piperidine-1-carboxylate (86 g), which was used immediately in the next step without purification.

reactant | 2-bromo-4-chloro-1-methylbenzene | 0.26 mol, 53 g | BrC1=C(C=CC(=C1)Cl)C | C7H6BrCl
reactant | n-BuLi | 2.5 M | [Li]CCCC
reactant | hexane | 0.26 mol, 103 mL | CCCCCC | C6H14
reactant | (R)-tert-butyl 3-(methoxy(methyl)carbamoyl)piperidine-1-carboxylate | 0.246 mol, 67 g | CON(C(=O)[C@H]1CN(CCC1)C(=O)OC(C)(C)C)C | C13H24N2O4
solvent | THF | 600 mL | C1CCOC1 | C4H8O
solvent | THF | 300 mL | C1CCOC1 | C4H8O
product | (R)-tert-butyl 3-(5-chloro-2-methylbenzoyl)piperidine-1-carboxylate | 86 g | ClC=1C=CC(=C(C(=O)[C@H]2CN(CCC2)C(=O)OC(C)(C)C)C1)C | C18H24ClNO3
